US08871796B2
A stirred solution of tert-butyl [3-(3-{5-(4-trifluoromethylphenoxy)-1-[2-(dimethylamino)-2-oxoethyl]-1H-pyrazol-3-yl}phenyl)oxetan-3-yl]carbamate (70 mg, 0.13 mmol) in 2 mL of CH2Cl2 was cooled in an ice bath. To the solution was added 1 mL of TFA and the mixture was stirred for 1 h. The cooling bath was removed and the mixture was stirred at ambient temperature for 1 h. 10% Aqueous Na2CO3 solution was added and the mixture was extracted with CH2Cl2. The combined organic phases were dried over Na2SO4, filtered, and the solvent was removed under reduced pressure to give 2-{3-[3-(3-aminooxetan-3-yl)phenyl]-5-(4-trifluoromethylphenoxy)-1H-pyrazol-1-yl}-N,N-dimethylacetamide as an oil. Calcd (M+1)+: 461.4. Found: 461.5

reactant | tert-butyl [3-(3-{5-(4-trifluoromethylphenoxy)-1-[2-(dimethylamino)-2-oxoethyl]-1H-pyrazol-3-yl}phenyl)oxetan-3-yl]carbamate | 0.13 mmol, 70 mg | FC(C1=CC=C(OC2=CC(=NN2CC(=O)N(C)C)C=2C=C(C=CC2)C2(COC2)NC(OC(C)(C)C)=O)C=C1)(F)F | C28H31F3N4O5
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-{3-[3-(3-aminooxetan-3-yl)phenyl]-5-(4-trifluoromethylphenoxy)-1H-pyrazol-1-yl}-N,N-dimethylacetamide | NC1(COC1)C=1C=C(C=CC1)C1=NN(C(=C1)OC1=CC=C(C=C1)C(F)(F)F)CC(=O)N(C)C | C23H23F3N4O3
